Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BUE numbness and weakness and difficulty walking
 
Major Surgical or Invasive Procedure:
Posterior C3-C6 decompression and instrumented fusion ___ 
(___) for cervical myelopathy. 

 
History of Present Illness:
Mr. ___ is a pleasant ___ gentleman who has progressive 
worsening of his walking ability since last ___ years. He has to 
use cane for mobilization because of the same. He describes 
presence of numbness in bilateral arms and weakness in his arms 
as well as weakness in his legs. He was evaluated by Dr. ___ 
with EMGs and MRI, which showed presence of severe, cervical 
spinal stenosis. His examination does correspond with clinical 
picture of cervical spondylotic myelopathy with hyperreflexia 
and clonus in bilateral lower extremities and spastic gait. Mr. 
___ is a pleasant gentleman who is suffering from walking 
difficulty and weakness of his lower extremities for more than 
___ years. He has to use cane for mobilization and his walking 
ability is getting worse. He does have numbness in his legs and 
in his arms along ulnar border of his arms. He does not have any 
history of fall. He does describe changes in his handwriting and 
difficulty in writing these days. His symptoms are worse with 
walking and standing for a long time. He also has difficulty in 
getting up from a squatting position. He does not have any pain 
as such.

 
Past Medical History:
Past medical history is positive for high blood pressure and
gouty arthritis.

Past Surgical History:  None.
 
Social History:
___
Family History:
His family history is negative for any medical issues.
 
Physical Exam:
Pre-Op-
Examination of cervical, thoracic, lumbar spine shows normal 
alignment in sagittal and coronal plane without any coronal and 
sagittal imbalance. He walks with a cane. His gait is spastic 
and short stepped. Tandem gait was not tested because of his 
gait issues. He does not have any cervical or submandibular 
lymphadenopathy.  Bilateral carotid, radial and n of the neck 
and does not have any Lhermitte's like symptoms on neck 
extension. Spurling test is negative. Examination of cervical 
spine:  He has full range of motion in cervical spine with 
terminal restriction. There is absence of any tenderness. 
Bilateral upper extremity neurological examination shows ___ 
strength in deltoids, biceps, and brachioradialis bilaterally as 
well as interossei and lumbricals.  He does have some ___ 
strength in bilateral triceps.  Sensations are intact to light 
touch in C4-T1 except for hypesthesia over the ulnar part of his 
both arms.  ___ sign is positive bilaterally. He has 
hyperreflexia in biceps, triceps, and brachioradialis reflexes. 
Examination of thoracolumbar spine shows absence of any skin 
lesions. He has got full range of motion. Examination of lower 
extremity and neurological status shows ___ strength in 
iliopsoas, quadriceps, hamstrings, ___, tibialis anterior, FHL 
and peroneal. Sensations are intact to light touch in L2-S1 
bilaterally. He has severe hyperreflexive in bilateral knees and 
ankles with presence of knee and ankle clonus. Toes are upgoing 
to plantar and flexor response. There are absence of any skin 
issues.
 
Pertinent Results:
___ 07:20AM BLOOD WBC-13.2* RBC-4.75 Hgb-14.8 Hct-43.0 
MCV-91 MCH-31.2 MCHC-34.4 RDW-12.5 RDWSD-41.2 Plt ___
___ 06:56AM BLOOD WBC-17.6*# RBC-4.67 Hgb-14.3 Hct-41.3 
MCV-88 MCH-30.6 MCHC-34.6 RDW-12.1 RDWSD-38.7 Plt ___
___ 07:20AM BLOOD Neuts-72.0* Lymphs-16.2* Monos-10.2 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-9.48* AbsLymp-2.13 
AbsMono-1.34* AbsEos-0.04 AbsBaso-0.04
___ 07:20AM BLOOD Plt ___
___ 06:56AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-82 UreaN-10 Creat-1.0 Na-134 
K-3.7 Cl-96 HCO3-25 AnGap-17
___ 06:56AM BLOOD Glucose-118* UreaN-11 Creat-1.0 Na-139 
K-4.1 Cl-102 HCO3-22 AnGap-19
___ 06:56AM BLOOD Calcium-8.5 Phos-4.6* Mg-2.2
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID 
please take while on narcotics 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Cervical spinal stenosis, C3 to C6.
2. Cervical degenerative disk disease.
3. Cervical myelopathy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Posterior Cervical Fusion

You have undergone the following operation: Posterior Cervical 
Decompression and Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting. 

•                Cervical Collar / Neck Brace:You need to wear 
the brace at all times until your follow-up appointment which 
should be in 2 weeks.You may remove the collar to take a 
shower.Limit your motion of your neck while the collar is 
off.Place the collar back on your neck immediately after the 
shower.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time.If you have an incision on your hip please follow the same 
instructions in terms of wound care.

•                You should resume taking your normal home 
medications

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in narcotic 
prescriptions (oxycontin,oxycodone,percocet) to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:
                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.
                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

                We will then see you at 6 weeks from the day of 
the operation.At that time we will most likely obtain 
Flexion/Extension X-rays and often able to place you in a soft 
collar which you will wean out of over 1 week.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit,drainage from your wound,or have any questions.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Remove the dressing in 2 days.If the incision is draining cover 
it with a new sterile dressing.If it is dry then you can leave 
the incision open to the air.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower.Do 
not soak the incision in a bath or pool.If the incision starts 
draining at anytime after surgery,do not get the incision 
wet.Call the office at that time.If you have an incision on your 
hip please follow the same instructions in terms of wound care.
 
Followup Instructions:
___